US07723368B2
Step b) [3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-carbamic acid tert-butyl ester
A mixture of (3-ethynyl-phenyl)-carbamic acid tert-butyl ester (14.7 g, 67.7 mmol), 1-difluoromethoxy-4-iodo-benzene (18.2 g, 67.7 mmol), NEt3 (47 mL, 338 mmol), acetonitrile (225 mL), CuI (1.29 g, 6.77 mmol), and Pd(PPh3)2Cl2 (2.85 g, 4.05 mmol) was heated to 60° C. for 1 h. The reaction was diluted with EtOAc/Hex (1:10) and then passed through a pad of silica gel and concentrated and purified with chromatography using hexanes/ethyl acetate (10:1) as the eluting solvents gave the title compound (24.3 g, 100%), characterized by NMR and mass spectral analyses.

reactant | (3-ethynyl-phenyl)-carbamic acid tert-butyl ester | 67.7 mmol, 14.7 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)C#C)=O | C13H15NO2
reactant | 1-difluoromethoxy-4-iodo-benzene | 67.7 mmol, 18.2 g | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | NEt3 | 338 mmol, 47 mL | CCN(CC)CC | C6H15N
reactant | acetonitrile | 225 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 6.77 mmol, 1.29 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 4.05 mmol, 2.85 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-carbamic acid tert-butyl ester | 24.3 g, 100% | C(C)(C)(C)OC(NC1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F)=O | C20H19F2NO3
